US06723722B1
A mixture of methyl 2-[[(benzyloxy)carbonyl]amino]-3-[(2-ethoxy-2-oxoethyl)amino]propanoate (6.6 g) and sodium hydrogen carbonate (3.3 g) in ethyl acetate (66 ml) and water (66 ml) was treated dropwise with di-tert-butyl dicarbonate (4.9 ml), and stirred at room temperature for 2 hours. The organic phase was separated, washed with saturated brine, dried (MgSO2) and concentrated under reduced pressure. The residue was purified by a column chromatography on a silica gel (hexane:ethyl acetate=3:2) to obtain methyl 2-[[(benzyloxy)carbonyl]amino]-3-[(tert-butoxycarbonyl)(2-ethoxy-2-oxoethyl)amino]propanoate (8.4 g) as a colorless oil.

reactant | methyl 2-[[(benzyloxy)carbonyl]amino]-3-[(2-ethoxy-2-oxoethyl)amino]propanoate | 6.6 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)OC)CNCC(=O)OCC | C16H22N2O6
reactant | sodium hydrogen carbonate | 3.3 g | C(O)([O-])=O.[Na+]
reactant | di-tert-butyl dicarbonate | 4.9 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethyl acetate | 66 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 66 ml | O | H2O
product | methyl 2-[[(benzyloxy)carbonyl]amino]-3-[(tert-butoxycarbonyl)(2-ethoxy-2-oxoethyl)amino]propanoate | 8.4 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)OC)CN(CC(=O)OCC)C(=O)OC(C)(C)C | C21H30N2O8
